US06506762B1
G. (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl)[2-methyl-9-(2,4,6-trimethylphenyl)pyridino[2,3-b]indolizin-4-yl]amine
Treat a solution of 2-(4-ethoxy-3-methoxy-phenyl)-N-{2-[2-methyl-9-(2,4,6-trimethyl-phenyl)-pyridino[2,3-b]indolizin-4-ylamino]-ethyl}-acetamide (0.08 g, 0.145 mmol) in THF (5 mL) with AlH3.NMe2Et (3 mL, 1.45 mmol) and heat to reflux for 14 h. Cool the resulting mixture ambient temperature, quench with Na2CO3, 10H2O (0.3 g) and stir at ambient temperature for 15 min. Filter the solution through Celite and wash with several portions of CH2Cl2. Concentrate the filtrate in vacuo to dryness and purify preparative TLC (10% MeOH in CH2C2 with 0.5% ammonium hydroxide) to the title compound as a solid,

reactant | 2-(4-ethoxy-3-methoxy-phenyl)-N-{2-[2-methyl-9-(2,4,6-trimethyl-phenyl)-pyridino[2,3-b]indolizin-4-ylamino]-ethyl}-acetamide | 0.145 mmol, 0.08 g | C(C)OC1=C(C=C(C=C1)CC(=O)NCCNC1=CC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C)OC | C34H38N4O3
reactant | AlH3 | [AlH3]
reactant | NMe2Et | 1.45 mmol, 3 mL | N(C)(C)CC | C4H11N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl)[2-methyl-9-(2,4,6-trimethylphenyl)pyridino[2,3-b]indolizin-4-yl]amine | C(C)OC1=C(C=C(C=C1)CCNCCNC1=CC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C)OC | C34H40N4O2
